US04242519
Methyl α-methylthio-α-(5-benzoyl-2-thienyl)-propionate (320 mg) was dissolved in 1 ml of anhydrous methanol, and 1.0 ml (2.34 M) of a methanol solution of sodium salt of methyl mercaptan was added. The mixture was heated under reflux for 1 hour. In order to hydrolyze the ester, 1 ml of water was added and the mixture was heated under reflux for an additional 2 hours. After cooling, 20 ml of water was added, and the mixture was washed twice with 15 ml of methylene chloride. The aqueous layer was acidified to a pH of 1 with conc. hydrochloric acid, and extracted three times with 15 ml of methylene chloride. The organic layer was washed with 10 ml of water, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to afford 176 mg of α-(5-benzoyl-2-thienyl)propionic acid in a yield of 68%.

reactant | Methyl α-methylthio-α-(5-benzoyl-2-thienyl)-propionate | 320 mg | CSC(C(=O)OC)(C)C=1SC(=CC1)C(C1=CC=CC=C1)=O | C16H16O3S2
reactant | sodium | [Na] | Na
reactant | methyl mercaptan | CS | CH4S
reactant | water | 1 ml | O | H2O
reactant | water | 20 ml | O | H2O
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 2.34 M, 1.0 ml | CO | CH4O
product | α-(5-benzoyl-2-thienyl)propionic acid | 176 mg, yield of 68% | C(C1=CC=CC=C1)(=O)C1=CC=C(S1)C(C(=O)O)C | C14H12O3S
